US05030715
STEP A: Diethyl 2-(formylamino)-(2-methyl-2-propenyl)-propandioate
A mixture of 40 g of potassium carbonate, 0.380 g of couronne 18 crown 6 ether catalyst and 39.9 g of chloromethylpropene was added to a solution of 30 g of ethyl formamidomalonate in 300 ml of acetonitrile and the mixture was refluxed for 3 hours and was filtered. The mixture was evaporated to dryness, cooled to 0° to -5° C. and was taken up in 10 ml of isopropyl ether. The mixture was filtered and the product was washed with isopropyl ether and dried under reduced pressure to obtain 25.2 g of the expected melting at ≈72° C.

reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethylpropene | 39.9 g | ClCC=CC | C4H7Cl
reactant | ethyl formamidomalonate | 30 g | C(=O)NC(C(=O)OCC)C(=O)[O-]
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
catalyst | ether | CCOCC | C4H10O
product | Diethyl 2-(formylamino)-(2-methyl-2-propenyl)-propandioate | C(=O)NC(C(=O)OCC)(C(=O)OCC)CC(=C)C | C12H19NO5
